US07696223B2
a) 1-Benzyl-3-chloro-7-ethyl-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
A mixture of 1-benzyl-3,7-dichloro-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester (126.1 mg, 0.19 mmol), tetraethyltin (50 mg, 0.21 mmol), and Pd(PPh3)2Cl2 (6.7 mg, 0.0095 mmol) in DMF (1 mL) was stirred at 120° C. for 2.5 h. The mixture was then diluted with EtOAc, washed with water and saturated NaCl aqueous solution, respectively; the EtOAc phase was dried over anhydrous sodium sulfate, concentrated, and the residue was purified by column to give a white solid, the desired title compound. The title compound, ESI MS (m/z): 359 (M+H+).

reactant | 1-benzyl-3,7-dichloro-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | 0.19 mmol, 126.1 mg | C(C)OC(=O)C=1C(=C2C(=C(N1)Cl)N(C=C2Cl)CC2=CC=CC=C2)O | C17H14Cl2N2O3
reactant | tetraethyltin | 0.21 mmol, 50 mg | C(C)[Sn](CC)(CC)CC
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)2Cl2 | 0.0095 mmol, 6.7 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-Benzyl-3-chloro-7-ethyl-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)CC)N(C=C2Cl)CC2=CC=CC=C2)O | C19H19ClN2O3
